US08735387B2
(a) 5-(4-Chloro-benzyl)-2-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-7-propoxy-oxazolo[5,4-d]pyrimidine
A mixture of 218.5 μl of epichlorohydrine and 370 mg of 4-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenol in 4.4 ml of isopropanol and 1.2 ml of an aqueous 3 N sodium hydroxide solution was heated to 50° C. for 8 h. Then ethyl acetate and water were added and the layers were separated. The organic layer was extracted with water, dried over sodium sulfate, filtered and evaporated in vacuo to give 410 mg of the crude title compound which was used in the next step without further purification.

reactant | epichlorohydrine | 218.5 μl | C(Cl)C1CO1 | C3H5ClO
reactant | 4-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenol | 370 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(C(=C3)C)O)C)OCCC)C=C1 | C23H22ClN3O3
reactant | sodium hydroxide | 3 N | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 4.4 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 5-(4-Chloro-benzyl)-2-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-7-propoxy-oxazolo[5,4-d]pyrimidine | 410 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(C(=C3)C)OCC3OC3)C)OCCC)C=C1 | C26H26ClN3O4
